US07465726B2
4-Fluoro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-phenylamine
A dried flask was charged with 4-(2-fluoro-5-nitrophenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (645 mg, 2.00 mmol) and THF (10 mL). Lithium aluminium hydride (1M in THF, 20 mL, 20.0 mmol) was added slowly through a syringe under N2 (the reaction was very exothermic). The resulting mixture was stirred for 16 h at rt. Water was cautiously added to quench the reaction. The resulting mixture was filtered, and the filtrate was concentrated to dryness to give the title compound as a brown oil. 1H NMR (DMSO-d6, 400 MHz): δ=2.14 (s, 3H), 2.38-2.44 (m, 2H), 2.89-2.90 (m, 2H), 3.22 (brs, 2H), 5.95 (brs, 1H), 7.24-7.29 (m, 1H), 7.67-7.73 (m, 2H), 8.16 (s, 1H). MS (ES+): m/z 206.26 (100) [MH+]. HPLC: tR=1.68 min (ZQ2000, polar—5 min).

reactant | 4-(2-fluoro-5-nitrophenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2.00 mmol, 645 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])F | C16H19FN2O4
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | Lithium aluminium hydride | 20.0 mmol, 1M, 20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | Water | O | H2O
product | 4-Fluoro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-phenylamine | FC1=C(C=C(C=C1)N)C=1CCN(CC1)C | C12H15FN2
